US08541596B2
N,N-Bis(2-fluoro-3-methylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 2-fluoro-3-methylbenzylbromide (447 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.072 g (19.1%); MS m/z: 378.1 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 2.24 (d, 6H, 4JH,F=1.5 Hz); 4.71 (s, 4H); 6.67-6.69 (m, 2H); 6.98 (t, 2H, 3J=7.5 Hz); 7.03-7.06 (m, 2H); 7.13-7.15 (m, 2H), 7.33-7.35 (m, 1H); 7.92 (s, 1H); 11.95 (br s, 1H); HPLC (METHOD [A]): rt 17.77 min (83.5%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 2-fluoro-3-methylbenzylbromide | 2.2 mmol, 447 mg, 2.2 eq. | FC1=C(CBr)C=CC=C1C | C8H8BrF
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(2-fluoro-3-methylbenzyl)-1H-benzo[d]imidazol-5-amine | FC1=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=C(C(=CC=C2)C)F)C=CC=C1C | C23H21F2N3
